US05109017
a) α-Methyl-α-(2-thienyl)benzenepropanoic acid
To an ice-cooled solution of 2-thiopheneacetic acid (30 g, 0.211 mol) in THF (300 mL) was added dropwise n-butyl lithium (275 mL of a 1.6M solution in hexane). The ice-bath was removed and the reaction was stirred for 1 hour. The reaction mixture was again cooled to 0° C. and hexamethylphosphoramide (34.5 mL) was added dropwise. After 45 minutes a solution of methyl iodide (13.1 mL, 0.211 mol) in THF (75 mL) was added dropwise. The reaction was stirred to room temperature for 45 minutes, recooled to 0° C., n-butyl lithium (1 eq) was added and after 45 minutes a solution of benzyl bromide (36 g, 0.211 mol) in THF (75 mL) was added. After stirring for 3 days the reaction was quenched with 1N.HCl (400 mL). The reaction mixture was partitioned between ethyl acetate and aqueous HCl and the ethyl acetate layer was separated, washed with water, and dried (MgSO4). Concentration of the ethyl acetate afforded an oil which was chromatographed on silica gel and eluted with 40% ethyl acetate/hexanes to give the title product as an oil (63 g).

reactant | 2-thiopheneacetic acid | 0.211 mol, 30 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | methyl iodide | 0.211 mol, 13.1 mL | CI | CH3I
reactant | n-butyl lithium | 1 eq | C(CCC)[Li]
reactant | benzyl bromide | 0.211 mol, 36 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | α-Methyl-α-(2-thienyl)benzenepropanoic acid | 63 g | CC(C(=O)O)(CC1=CC=CC=C1)C=1SC=CC1 | C14H14O2S
